US06927228B2
(c) tert-Butyl [4′-(2,4-dioxothiazolidin-5-ylmethyl)biphenyl-3-ylmethyl]propylcarbamate
In a manner similar to that of Example 1(g), starting with 600 mg (1.3 mmol) of tert-butyl [4′-(2,4-dioxothiazolidin-5-ylidenemethyl)biphenyl-3-ylmethyl]-propylcarbamate in 7 ml of ethyl acetate and 7 ml of dimethylformamide, 50 mg (10%) of the desired product are obtained.

reactant | tert-butyl [4′-(2,4-dioxothiazolidin-5-ylidenemethyl)biphenyl-3-ylmethyl]-propylcarbamate | 1.3 mmol, 600 mg | O=C1SC(C(N1)=O)=CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(OC(C)(C)C)=O)CCC | C25H28N2O4S
solvent | ethyl acetate | 7 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | tert-Butyl [4′-(2,4-dioxothiazolidin-5-ylmethyl)biphenyl-3-ylmethyl]propylcarbamate | 50 mg, 10% | O=C1SC(C(N1)=O)CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(OC(C)(C)C)=O)CCC | C25H30N2O4S
